US07754745B2
To a solution of tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate (5 g, 26.7 mmol), 2-(trifluoromethyl)phenol (4.8 h, 29.4 mmol) and triphenylphosphine (8.4 g, 32 mmol) in THF (75 mL) at rt was added DEAD (5.1 mL, 32 mmol) over 5-10 min. The mixture was stirred at rt for 2 days. Solvent was evaporated. The residue was diluted with EtOAc and washed successively with 1 N aqueous NaOH and brine. The EtOAc layer was separated, dried (Na2SO4) and concentrated. Chromatography over silica gel and elution with hexanes/EtOAc (10:1, then 3:1) gave tert-butyl (3R)-3-[2-(trifluoromethyl)phenoxy]pyrrolidine-1-carboxylate as a colorless oil, which solidified on standing. 1H NMR (500 MHz, acetone-d6): δ 7.63 (m, 2 H), 7.31 (d, 1 H), 7.13 (t, 1 H), 5.26 (s, 1 H), 3.68-3.43 (m, 4 H), 2.21 (m, 2 H), 1.45 (s, 9 H).

reactant | tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate | 26.7 mmol, 5 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | 2-(trifluoromethyl)phenol | 29.4 mmol | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | triphenylphosphine | 32 mmol, 8.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 32 mmol, 5.1 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | tert-butyl (3R)-3-[2-(trifluoromethyl)phenoxy]pyrrolidine-1-carboxylate | FC(C1=C(O[C@H]2CN(CC2)C(=O)OC(C)(C)C)C=CC=C1)(F)F | C16H20F3NO3
